US07919518B2
To a solution of 2-methyl-2-[(1H-indazol-3-yl)methoxy]propanoic acid (26 g; 0.093 mol) in DMF (200 ml) was added 60% NaH (10 g; 0.25 mol) and the mixture was stirred for 10 minutes at 60° C. 1-chloro-1,2,3,4-tetrahydronaphthalene (0.217 mol) was then added to the mixture and the whole was stirred at 60° C. for 18 hours. The reaction was stopped by pouring the mixture into water (1 L), followed by acidifying with 5 N HCl and extracting the product with diethyl ether (3×250 ml). The residue obtained was dissolved in 95° ethanol (100 ml) and treated at reflux with 1N NaOH (200 ml) for 2 hours. The solution was then cooled to room temperature and washed with diethyl ether (3×200 ml). The alkaline phase was then acidified with concentrated HCl and extracted with ethyl acetate (3×300 ml). The combined organic phases were concentrated under reduced pressure and the crude residue obtained was purified by crystallization from ethyl acetate. 31 g of 2-methyl-2-{[1-(1,2,3,4-tetrahydronaphth-1-yl)-1H-indazol-3-yl]methoxy}-propanoic acid were thus obtained.

reactant | 2-methyl-2-[(1H-indazol-3-yl)methoxy]propanoic acid | 0.093 mol, 26 g | CC(C(=O)O)(C)OCC1=NNC2=CC=CC=C12 | C12H14N2O3
reactant | NaH | 0.25 mol, 10 g | [H-].[Na+]
reactant | 1-chloro-1,2,3,4-tetrahydronaphthalene | 0.217 mol | ClC1CCCC2=CC=CC=C12 | C10H11Cl
reactant | HCl | 5 N | Cl | ClH
reactant | NaOH | 1N, 200 ml | [OH-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 1 L | O | H2O
product | 2-methyl-2-{[1-(1,2,3,4-tetrahydronaphth-1-yl)-1H-indazol-3-yl]methoxy}-propanoic acid | 31 g | CC(C(=O)O)(C)OCC1=NN(C2=CC=CC=C12)C1CCCC2=CC=CC=C12 | C22H24N2O3
